US05219860
1'Hexylspiro[indane-1,4'-piperidine]
In the same way as that described in Example 1, step 5, the title compound was synthesised using spiro[indane-1,4'-piperidine] (0.4 g, 2.2 mmol), DMF (15 ml), potassium carbonate (0.33 g, 2.4 mmol) and iodohexane (0.62 g, 2.9 mmol). The crude residue was chromatographed in 1:1 petrol:ether to give 1'-hexylspiro[indane-1,4'-piperidine] (314 mg, 52%) as a pale yellow oil.

reactant | spiro[indane-1,4'-piperidine] | 2.2 mmol, 0.4 g | N1CCC2(CC1)CCC1=CC=CC=C12 | C13H17N
reactant | potassium carbonate | 2.4 mmol, 0.33 g | C([O-])([O-])=O.[K+].[K+]
reactant | iodohexane | 2.9 mmol, 0.62 g | ICCCCCC | C6H13I
solvent | DMF | 15 ml | CN(C)C=O | C3H7NO
product | 1'-hexylspiro[indane-1,4'-piperidine] | 314 mg, 52% | C(CCCCC)N1CCC2(CC1)CCC1=CC=CC=C12 | C19H29N
